US05108747
Step B: p-Nitrobenzyl 2-[4-methylthio-3-(1-(p-nitrobenzyloxycarbonyloxy)-ethyl)-2-oxoazetidinyl]-acetate
2.2 ml of a 1 M solution of lithium bis-(trimethylsilyl)amide are added with stirring at -70° C. in the course of 5 minutes to a mixture of 680 g (2mmol) of 4-methylthio-3-[1-(p-nitrobenzyloxycarbonyloxy)-ethyl]-azetidin-2-one and 602 mg (2.2 mmol) of p-nitrobenzyl bromoacetate in 2 ml of dry tetrahydrofuran and 2 ml of dry DMF. The reaction mixture is stirred at -70° C. during the course of 30 minutes, diluted with 30 ml of ethyl acetate and 70 ml of toluene and washed twice with dilute NaCl solution. The organic phase is dried over MgSO4 and filtered, and the solvent is evaporated in vacuo. The residue is chromatographed on 65 g of silica gel using toluene/ethyl acetate 4:1, 520 mg of a yellow oil being obtained. IR spectrum in CH2Cl2 : 2920, 2850, 1765, 1750, 1605, 1520, 1355, 1345 cm-1.

reactant | lithium bis-(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 4-methylthio-3-[1-(p-nitrobenzyloxycarbonyloxy)-ethyl]-azetidin-2-one | 2mmol, 680 g | CSC1C(C(N1)=O)C(C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C14H16N2O6S
reactant | p-nitrobenzyl bromoacetate | 2.2 mmol, 602 mg | BrCC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C9H8BrNO4
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | p-Nitrobenzyl 2-[4-methylthio-3-(1-(p-nitrobenzyloxycarbonyloxy)-ethyl)-2-oxoazetidinyl]-acetate | CSC1C(C(N1CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)C(C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C23H23N3O10S
